US09382188B2
F) ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate
To a solution of ethyl 3-(3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl)-3-cyclopropylpropanoate (4.54 g) in THF (20 mL) was added a 1.0 M solution of tetrabutylammonium fluoride in THF (18.7 mL), and the mixture was stirred at room temperature for 4 hr. To the reaction mixture was added brine, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.94 g) as a colorless oil.

reactant | ethyl 3-(3-(((tert-butyldiphenylsilyl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 4.54 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1 | C31H38O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 18.7 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 1.94 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
